US08476297B2
2-(4-Fluorophenyl)-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinolin-2(1H)-yl)ethanone
To a solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.36 mmol, example 9 (step 3) and DIEA (63 μL, 0.36 mmol) in DCM (2 mL) was added 4-fluorophenylacetyl chloride (62 μL, 0.36 mmol). The resulting mixture was reacted under the same conditions as described for example 10 give the title compound as a white oil. MS (ESI, positive ion) m/z: 414 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.36 mmol, 63 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorophenylacetyl chloride | 0.36 mmol, 62 μL | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)-1-(1-(4-(trifluoromethyl)phenyl)-3,4-dihydro-isoquinolin-2(1H)-yl)ethanone | FC1=CC=C(C=C1)CC(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C24H19F4NO
